US05935973
Sodium metal (0.89 g) was dissolved in methanol (100 ml) and a solution of (R)-2-(2,3-epoxypropoxy)-6-fluorophenyl formate (6.56 g, prepared as described above) in methanol (100 ml) added dropwise. The mixture was stirred for one hour at ambient temperature then heated under reflux for two hours, allowed to stand for 3 days, and then heated under reflux for 4 hours. The solvent was removed in vacuo, water (100 ml) was added and the mixture extracted with ethyl acetate (4×100 ml). The combined extracts were washed with brine (100 ml), dried over magnesium sulphate and the solvent evaporated in vacuo to give crude (S)-8-fluoro-1,4-benzodioxan-2-ylmethanol (3.85 g) which was used without further purification.

reactant | Sodium | 0.89 g | [Na] | Na
reactant | (R)-2-(2,3-epoxypropoxy)-6-fluorophenyl formate | 6.56 g | C(=O)OC1=C(C=CC=C1F)OC[C@H]1CO1 | C10H9FO4
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | (S)-8-fluoro-1,4-benzodioxan-2-ylmethanol | 3.85 g | FC1=CC=CC2=C1O[C@H](CO2)CO | C9H9FO3
